US04798680
A solution of 1.14 g (10.0 mM) of (+)-1,2-epoxyheptane ([α]D +15.1° (neat)) in 5 ml of dry ether was quickly added dropwise into ice-cooled 2 ml of hydrogen fluoride/pyridine. After the addition, the mixture was stirred for 30 minutes in an ice bath, followed by addition of 10 ml of cold water and 3 times of extraction with 10 ml of ether. The extract liquid was washed 3 times with 10 ml of 1N-sodium carbonate, followed by drying with anhydrous magnesium sulfate, removal of ether by vacuum distillation and distillation with Kugelrohr distillation apparatus, to obtain 0.492 g of crude (-)-2-fluoroheptanol. Further, by repeating the above operations, 1.35 g of the crude product was obtained and rectified by means of a Claisen flask to obtain 0.80 g (600 mM) of objective (-)-2-fluoroheptanol. Yield: 20.0%. The product showed the following properties:

reactant | (+)-1,2-epoxyheptane | 10.0 mM, 1.14 g | O1CC1CCCCC | C7H14O
reactant | hydrogen fluoride/pyridine | 2 ml | C1=CC=NC=C1.F
reactant | water | 10 ml | O | H2O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | (-)-2-fluoroheptanol | 0.492 g | FC(CO)CCCCC | C7H15FO
